US06900227B2
Preparation of 4-fluoro-2,2-diphenyl-benzo[1,3]dioxole-5-carboxylic acid
4-Fluoro-2,2-diphenyl-benzo[1,3]dioxole (5.8 g, 20 mmol) were dissolved in THF (40 ml). The reaction was cooled to −78° C. under argon. TMEDA (2.9 ml, 20 mmol) was added followed by n-butyl lithium (12.5 ml, 1.6 N in hexane) dropwise. The reaction was stirred at −78° C. for 2 hours. Carbon dioxide (20 g) was added at that temperature. The reaction was allowed to warm to 0° C. and poured into water (80 ml). The reaction was extracted twice with ethyl acetate. The aqueous layer was neutralized with 1N aqueous HCl solution, extracted twice with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and filtered. The solvent was evaporated and the residue suspended in n-hexane, stirred for 10 minutes and the product was filtered off to yield the acid as a white solid (4.0 g, 60%). m.p.: 189-191° C.

reactant | 4-Fluoro-2,2-diphenyl-benzo[1,3]dioxole | 20 mmol, 5.8 g | FC1=CC=CC=2OC(OC21)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H13FO2
reactant | TMEDA | 20 mmol, 2.9 ml | CN(C)CCN(C)C | C6H16N2
reactant | n-butyl lithium | 1.6 N, 12.5 ml | C(CCC)[Li]
reactant | Carbon dioxide | 20 g | C(=O)=O | CO2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | 80 ml | O | H2O
product | 4-fluoro-2,2-diphenyl-benzo[1,3]dioxole-5-carboxylic acid | 4.0 g, 60% | FC1=C(C=CC=2OC(OC21)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)O | C20H13FO4
